US08802673B2
To a stirred solution of tert-butyl (RS)-2-(4-(5-chloropyrimidin-2-ylamino)-3-fluorophenyl)morpholine-4-carboxylate (26 mg) in acetonitrile (1.5 ml) and water (4.5 ml) was added trifluoroacetic acid (49.0 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 3 h. The reaction mixture was then cooled to room temperature and poured into EtOAc/THF (1:1) and washed with 1 M aq. NaOH. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/EtOAc/MeOH) to afford (RS)-5-chloro-N-(2-fluoro-4-(morpholin-2-yl)phenyl)pyrimidin-2-amine (14 mg, 71%) as a white solid. MS (ISP): 311.1 ([{37Cl}M+H]+), 309.1 ([{35Cl}M+H]+).

reactant | tert-butyl (RS)-2-(4-(5-chloropyrimidin-2-ylamino)-3-fluorophenyl)morpholine-4-carboxylate | 26 mg | ClC=1C=NC(=NC1)NC1=C(C=C(C=C1)C1CN(CCO1)C(=O)OC(C)(C)C)F | C19H22ClFN4O3
reactant | trifluoroacetic acid | 49.0 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 4.5 ml | O | H2O
product | (RS)-5-chloro-N-(2-fluoro-4-(morpholin-2-yl)phenyl)pyrimidin-2-amine | 14 mg, 71% | ClC=1C=NC(=NC1)NC1=C(C=C(C=C1)C1CNCCO1)F | C14H14ClFN4O
